US04283334
2-Methyl-3-phenyl-2,3,6,7,8,9-hexahydro-5H-thiazolo[3,2-a][1,3]diazocin-3-ol, hydrobromide
A mixture of 1.44 g. of hexahydro-1,3-diazocine-2(1H)-thione and 500 ml. of acetone is heated to produce solution. A 2.13 g. portion of 2-bromopropiophenone is added and the mixture is allowed to stand overnight. The solid is collected, washed with acetone and dried, giving 2.53 g. of the desired product, m.p. 191°-193° C. (dec.).

reactant | hexahydro-1,3-diazocine-2(1H)-thione | N1C(NCCCCC1)=S | C6H12N2S
reactant | 2-bromopropiophenone | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methyl-3-phenyl-2,3,6,7,8,9-hexahydro-5H-thiazolo[3,2-a][1,3]diazocin-3-ol, hydrobromide | Br.CC1C(N2C(=NCCCCC2)S1)(O)C1=CC=CC=C1 | InChI=1S/C15H20N2OS.BrH/c1-12-15(18,13-8-4-2-5-9-13)17-11-7-3-6-10-16-14(17)19-12;/h2,4-5,8-9,12,18H,3,6-7,10-11H2,1H3;1H
